US08835648B2
(S)-1-[3-(1-Methyl-1H-benzoimidazol-2-yl)-phenyl]-piperidine-3-carboxylic acid ethyl ester
Method 1—Step c 2-(3-Bromo-phenyl)-1-methyl-1H-benzoimidazole (0.85 g, 2.96 mmol), (S)-(+)-Nipecotic acid ethyl ester (0.60 g, 3.85 mmol) and cesium carbonate (4.82 g, 14.80 mmol) were placed into a dry Schlenk tube under nitrogen. At the same time palladium acetate (0.14 g, 0.60 mmol), and rac-2,2′bis(diphenylphosphino)-1,1′-binaphtyl (BINAP) (0.57 g, 0.90 mmol) were placed into a dry 7 mL vial under nitrogen. Then dry toluene (5 mL) was added and the mixture was stirred 20 minutes under nitrogen before being added to the first flask. The reaction mixture was heated at 80° C. overnight, cooled to room temperature, filtered off, and the insoluble material was washed with EtOAC (3×10 mL). The organic solution was concentrated under reduced pressure and crude was purified by flash chromatography (eluent: cyclohexane:AcOEt gradient from 100% of cyclohexane to cyclohexane 4:AcOEt 1) to afford 0.75 g of the title compound (70%).

reactant | 2-(3-Bromo-phenyl)-1-methyl-1H-benzoimidazole | 2.96 mmol, 0.85 g | BrC=1C=C(C=CC1)C1=NC2=C(N1C)C=CC=C2 | C14H11BrN2
reactant | (S)-(+)-Nipecotic acid ethyl ester | 3.85 mmol, 0.60 g | C(C)OC([C@@H]1CNCCC1)=O | C8H15NO2
reactant | cesium carbonate | 14.80 mmol, 4.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | rac-2,2′bis(diphenylphosphino)-1,1′-binaphtyl | 0.90 mmol, 0.57 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | palladium acetate | 0.60 mmol, 0.14 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-1-[3-(1-Methyl-1H-benzoimidazol-2-yl)-phenyl]-piperidine-3-carboxylic acid ethyl ester | 0.75 g, 70% | C(C)OC(=O)[C@@H]1CN(CCC1)C1=CC(=CC=C1)C1=NC2=C(N1C)C=CC=C2 | C22H25N3O2
